US06156700
Preparation of 2-Chloro-4-fluoro-5-nitrobenzophenone
A solution of 2-chloro-4-fluoro-5-nitrobenzoyl chloride (26.7 g, 0.112 mol) and benzene (12.0 mL, 0.134 mol) in 1,1,2,2-tetrachloroethane is cooled to 0° C. to 5° C., treated with aluminum chloride (18.1 g, 0.136 mol), stirred for 15 minutes at about 8° C., heated to and stirred at 50° C. for one hour, cooled to room temperature, and diluted sequentially with an ice-water mixture and concentrated hydrochloric acid. The organic phase is separated, washed sequentially with water and saturated sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a solid. Flash column chromatography of the solid using silica gel and methylene chloride gives the title product as an orange solid (30.8 g) which is identified by NMR spectral analyses.

reactant | 2-chloro-4-fluoro-5-nitrobenzoyl chloride | 0.112 mol, 26.7 g | ClC1=C(C(=O)Cl)C=C(C(=C1)F)[N+](=O)[O-] | C7H2Cl2FNO3
reactant | benzene | 0.134 mol, 12.0 mL | C1=CC=CC=C1 | C6H6
reactant | aluminum chloride | 0.136 mol, 18.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | 1,1,2,2-tetrachloroethane | ClC(C(Cl)Cl)Cl | C2H2Cl4
solvent | hydrochloric acid | Cl | ClH
product | 2-Chloro-4-fluoro-5-nitrobenzophenone | 30.8 g | ClC1=C(C(=O)C2=CC=CC=C2)C=C(C(=C1)F)[N+](=O)[O-] | C13H7ClFNO3
